US04218458
A mixture of 11 parts of 1-butyl-5-(4-methoxyphenyl)-2-(methylthio)-1H-imidazole monohydrochloride, 20 parts of Raney-nickel catalyst, 105 parts of ammonium hydroxide and 8 parts of methanol is stirred for 2 hours at room temperature. The Raney-nickel catalyst is filtered off and another 20 parts of Raney-nickel catalyst is added. The whole is stirred for another 2 hours at room temperature. The catalyst is filtered off and the filtrate is evaporated. The residue is taken up in a small amount of water and the product is extracted with dichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 8 parts of 1-butyl-5-(4-methoxyphenyl)-1H-imidazole as an oily residue.

reactant | 1-butyl-5-(4-methoxyphenyl)-2-(methylthio)-1H-imidazole monohydrochloride | Cl.C(CCC)N1C(=NC=C1C1=CC=C(C=C1)OC)SC
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 1-butyl-5-(4-methoxyphenyl)-1H-imidazole | C(CCC)N1C=NC=C1C1=CC=C(C=C1)OC | C14H18N2O
